US05378830
174.4 parts of a 50% NaOH solution are dissolved in 373.8 parts of deionized water to make a 16% solution. The solution is cooled to room temperature. 452 parts of 2-acrylamido-2-methylpropane sulfonic acid monomer (AMPS) are added to the solution at between about 25 and about 30° C. After the AMPS has fully dissolved, the solution is cooled to 20° C. and the pH is adjusted to 9.1. The solvent is removed to yield sodium 2-acrylamido-2-methylpropane sulfonate monomer.

reactant | NaOH | [OH-].[Na+]
reactant | 2-acrylamido-2-methylpropane sulfonic acid | C(C=C)(=O)NC(CS(=O)(=O)O)(C)C | C7H13NO4S
solvent | water | O | H2O
product | sodium 2-acrylamido-2-methylpropane sulfonate | C(C=C)(=O)NC(CS(=O)(=O)[O-])(C)C.[Na+] | InChI=1S/C7H13NO4S.Na/c1-4-6(9)8-7(2,3)5-13(10,11)12;/h4H,1,5H2,2-3H3,(H,8,9)(H,10,11,12);/q;+1/p-1
